US09079860B2
Part A: (S)-2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-N-(2-oxo-2-phenyl-ethyl)-3-phenyl-propionamide
N-Phthaloyl-L-phenylalanine (290 mg, 1 mmol) and 2-aminoacetophenone (171 mg, 1 mmol) were dissolved in 10 mL of pyridine. Bop reagent (470 mg, 1.1 mmol) was added The mixture was stirred at rt under N2 for 12 h. The solvent was removed. The residue was dissolved in EtOAc and washed with water and sat. NaHCO3. The organic layer was dried over Na2SO4, filtered, and concentrated to yield 412 mg of the product (100% yield). MS 413.2 (M+H)+.

reactant | N-Phthaloyl-L-phenylalanine | 1 mmol, 290 mg | C1=CC=C(C=C1)C[C@@H](C(=O)O)N2C(=O)C3=CC=CC=C3C2=O | C17H13NO4
reactant | 2-aminoacetophenone | 1 mmol, 171 mg | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | Bop reagent | 1.1 mmol, 470 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-N-(2-oxo-2-phenyl-ethyl)-3-phenyl-propionamide | 412 mg, 100% yield | O=C1N(C(C2=CC=CC=C12)=O)[C@H](C(=O)NCC(C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C25H20N2O4
